US09085534B2
2-(phenylamino)benzonitrile
To a suspension of 2-bromobenzonitrile (1.5 g, 8.2 mmol), aniline (1.1 g, 12.4 mmol), Xantphos (0.7 g, 1.2 mmol) and cesium carbonate (5.4 g, 16.5 mmol) in dioxane (50 mL) was added Pd2 dba3 (375 mg, 0.4 mmol) at rt under N2. The reaction was stirred at 90° C. for 8 h. The reaction mixture was filtered and concentrated. Purification by silica gel chromatography (PE:EtOAc=200:1) gave 1.3 g (81%) of the title compound as a yellow oil. 1H NMR (300 MHz, CDCl3): δ 6.36 (1H, br s), 6.86 (1H, td, J=0.9, 7.8 Hz), 7.13-7.18 (4H, m), 7.36-7.41 (3H, m), 7.51 (1H, dd, J=1.8, 7.8 Hz).

reactant | 2-bromobenzonitrile | 8.2 mmol, 1.5 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | aniline | 12.4 mmol, 1.1 g | NC1=CC=CC=C1 | C6H7N
reactant | Xantphos | 1.2 mmol, 0.7 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 16.5 mmol, 5.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.4 mmol, 375 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(phenylamino)benzonitrile | 1.3 g, 81% | C1(=CC=CC=C1)NC1=C(C#N)C=CC=C1 | C13H10N2
